US08471005B2
Into a 1-Neck round-bottom flask 4-(Hydroxymethyl)piperidine (6.53 g, 56.7 mmol), Potassium carbonate (7.84 g, 56.7 mmol), Acetonitrile (50 mL, 1000 mmol), and [A] 4-Fluoronitrobenzene (4.00 g, 28.3 mmol)were added. The reaction was heated at 60° C. overnight. The reaction content was poured into ice water and stirred for 30 minutes. The solid was filtered, washed with water and dried under vacuum to give [1-(4-Nitro-phenyl)-piperidin-4-yl]-methanol as an off-white solid (5.20 g, 78%). NMR 1H (DSMO-d6)-8.02 (d, 2H, J=9.40 Hz), 7.00 (d, 2H J=9.49 Hz), 4.50 (bs, 1H), 4.07 (bd, 1H, J=13.33 Hz), 3.27 (d, 1H, J=5.84 Hz), 2.94 (t, 2H), 1.80-1.95 (m, 3H), 1.02-1.13 (m, 2H)

reactant | 4-(Hydroxymethyl)piperidine | 56.7 mmol, 6.53 g | OCC1CCNCC1 | C6H13NO
reactant | Potassium carbonate | 56.7 mmol, 7.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetonitrile | 1000 mmol, 50 mL | C(C)#N | C2H3N
reactant | 4-Fluoronitrobenzene | 28.3 mmol, 4.00 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | [1-(4-Nitro-phenyl)-piperidin-4-yl]-methanol | 5.20 g, 78% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)CO | C12H16N2O3
